US05859007
B. 2-[3-Methyl-3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
To a stirring solution of 2.33 g (4.93 mmol) of 2-(3-Methyl-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide, prepared as in Part A, in 50 mL of DMF at 0° C. is added 5.42 mL (5.42 mmol) of a 1.0M solution of NaN(TMS)2 in THF. The resulting solution is stirred 10 min, then a solution of 1.69 g (5.42 mmol) of 3-bromomethyl-1-tert-butoxycarbonyl-1H-indazole in 10 mL of DMF is added. The resulting solution is stirred at RT for 2 h then poured into 100 mL NH4Cl. The reaction mixture is concentrated to remove the DMF, diluted with 300 mL of H2O and extracted with EtOAc (3×200 mL). The organics were dried (MgSO4), and the solvents removed in vacuo. Purification by silica gel flash chromatography using hexane/EtOAc 3/1 as eluent afforded 2.41 g of the title compound as a light yellow foam: 1H NMR (CDCl3, 400 MHz) δ8.53 (m, 2H), 8.06 (m, 2H), 7.50-6.96 (m, 12H), 5.03 (m,1H), 4.58 (d, 1H), 4.06 (d, 1H), 3.85 (s, 3H), 3.02 (dd, AB quartet, 2H, J=16.8), 1.72 (s, 9H), 1.55 (s, 3H), 1.14 (d, 6H, J=6.8); low resolution MS (FAB)m/e 703 (MH+), 603, 438; Anal. (C40H42N6O6) Calcd. C, 68.36; H, 6.02; N, 11.96 Found C, 67.11; H, 6.15; N, 11.48.

reactant | 2-(3-Methyl-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 4.93 mmol, 2.33 g | CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2)=O | C27H28N4O4
reactant | NaN(TMS)2 | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3-bromomethyl-1-tert-butoxycarbonyl-1H-indazole | 5.42 mmol, 1.69 g | BrCC1=NN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C13H15BrN2O2
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[3-Methyl-3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 2.41 g | CC1(C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2)=O)CC2=NN(C1=CC=CC=C21)C(=O)OC(C)(C)C | C40H42N6O6
